Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([O:2][C:3]1(/[N:4]=[N:5]/[H:11])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],45.454138905481
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:6]([H:16])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([O:7][H:19])[H:15],120.116622838812
[N:1](=[C:2](/[O:3][H:8])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])\[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8],25.4186399514036
[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7]>>[C:5](=[O:6])([H:7])[H:8].[O+:1]#[C:2][C:3]#[C-:4],73.9300115149184
[C:1]([C:2]([C:5]([O:6][H:16])([H:14])[H:15])([H:10])[H:12])([H:7])([H:8])[H:9].[C:3]([O:4][H:13])[H:11]>>[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],7.613012787859404
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([O:3][H:12])[H:11])([H:8])[H:9].[C@@:4]1([C:5]([H:14])([H:15])[H:16])([H:13])[C:6]([H:10])=[N:7]1,83.3013594706702
[C:1]([C:2](=[O:3])[H:11])([H:7])([H:8])[H:9].[C:4](=[C:5]([O:6][H:14])[H:12])([H:10])[H:13]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],79.1020208931448
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([O:7][C@:6]1([H:12])[C:2](=[O:3])[C:4]([H:10])([H:11])[O:5]1)([H:8])[H:9],116.638564856153
[N:1]#[C:2][O:6][C:5]([O:4][C:3]([H:7])([H:8])[H:9])([H:10])[H:11]>>[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7],78.2805916757766
[C+:1]([N:2]([C:3]1=[C:7]([H:14])[C:6]([H:8])([H:13])[N:5]([H:12])[N-:4]1)[H:11])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],47.13570117995711
[N:1](=[C:2]1\[O:3][O:7][C:6]([H:8])([H:12])[O:5][C:4]1([H:10])[H:11])\[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],24.58923030463791
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]1[H:11].[C:4]([C:5]([H:10])([H:13])[H:14])(=[O:6])[H:12]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([C@@:4]1([H:12])[C:5]([H:13])([H:14])[O:6]1)[H:11],50.6528762374616
[C:1]([C@@:2]1([C:5](=[O:6])[H:12])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C+:5][H:12])[O-:6])([H:7])([H:8])[H:9].[C:3](=[O:4])([H:10])[H:11],71.6995439835389
[C:1]1([H:7])([H:8])[N:2]=[C:3]([N:5]([H:10])[H:11])[O:4]1.[H:6][H:9]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([H:10])[H:11])[H:9])([H:6])([H:7])[H:8],46.0702649192094
[C:1]([O:2][N:6]=[C:5]=[C:3]([C:4]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],29.342274684824993
[n:1]1([H:7])[c:2](=[O:6])[c:3]([H:9])[n:4][n:5]1[H:8]>>[N:1]([C:2](=[C:3]([N+:4]#[N:5])[H:9])[O-:6])([H:7])[H:8],41.9519292555544
[C:1]([C:2]([C@@:3]1([H:13])[C:4]([H:15])([H:16])[C:5]1=[C:6]=[C:7]([H:18])[H:19])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][H:17]>>[C:1]([C:2]([C:3]([C:4]([C:5]#[C:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],46.737985742215606
[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C+:1]([N:2]([C:3](=[C:4]=[N-:5])[H:12])[H:11])([H:8])[H:10].[C:6]=[N:7][H:9],42.1185403565972
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([N:7]=[C:6]=[C:3]([C:4]([O:5][H:15])([H:13])[H:14])[H:12])[H:11])([H:8])([H:9])[H:10],76.7743468014215
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@:3]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:9])([H:8])[H:10].[C:4]([H:11])([H:12])[H:13],123.321930349844
[C:1]([C@@:2]1([C:5]#[C:6][H:12])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C@:2]2([C:3]([H:10])([H:11])[O:4]2)[C:5][C:6]1([H:7])[H:12],89.1813080882887
[C+:1]1([H:9])[C@@:2]2([H:11])[C:3]([H:12])([H:13])[C@@:4]2([H:14])[C:5]([H:15])([H:16])[C:6]1=[C-:7][H:17].[H:8][H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],38.72249271526278
[N:1](=[C:2](/[O:3][C:4](=[O:5])[H:8])[H:7])\[H:6]>>[N:1](=[C:2])[H:6].[O:3]=[C:4]([O:5][H:7])[H:8],34.814232513653394
[C:1]([O:2][C:3](/[C:4]([O:5][H:14])=[C:6](/[O:7][H:17])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:16]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],65.24900328177388
[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[C:5]([N:6]=[O:3])[C:4]1([H:10])[H:11])([H:7])([H:8])[H:9],157.29190136602
